US07585885B2
5-(Methyl-propylcarbamoyl)-nicotinic acid
Add a solution of pyridine-3,5-dicarboxylic acid (220 mg, 1.32 mmol), diisopropylethylamine (918 μL, 5.28 mmol), and DMF (1.5 mL) in dichloromethane (10 mL) to 2-chlorotritylchloride resin (11.0 g, 1.1 mmol) in a peptide synthesis vessel and mix for 3 h. Filter and wash the resin with a 17:2:1 mixture of dichloromethane:methanol:diisopropylethylamine, followed by dichloromethane. Add a solution of methylpropylamine (225 μL, 2.2 mmol), and benzotriazole-1-yl-oxy-tris-pyrrolidinophosphonium hexafluorophosphate (1.14 g, 2.2 mmol) in dichloromethane (10 mL) to the resin and mix for 1 h. Filter and wash the resin with dichloromethane (2×10 mL). Add a solution of 5% trifluoroacetic acid in dichloromethane (10 mL) to the resin and let stand for 10 min. Filter the resin and wash with dichloromethane (2×10 mL). Combine the filtrates and concentrate to give the title compound (110 mg, 50%).

reactant | pyridine-3,5-dicarboxylic acid | 1.32 mmol, 220 mg | N1=CC(=CC(=C1)C(=O)O)C(=O)O | C7H5NO4
reactant | diisopropylethylamine | 5.28 mmol, 918 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-chlorotritylchloride resin | 1.1 mmol, 11.0 g | C1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=CC=C3Cl)Cl | C19H14Cl2
reactant | methylpropylamine | 2.2 mmol, 225 μL | CNCCC | C4H11N
reactant | benzotriazole-1-yl-oxy-tris-pyrrolidinophosphonium hexafluorophosphate | 2.2 mmol, 1.14 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 5-(Methyl-propylcarbamoyl)-nicotinic acid | 110 mg, 50% | CN(C(=O)C=1C=NC=C(C(=O)O)C1)CCC | C11H14N2O3
